US07625932B2
Preparation of 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]thiophene-3-carbonitrile
A solution of 2-(4-bromophenyl)thiophene-3-carbonitrile (16.3 g, 62 mmol, preparation 24), bis(pinacolato)diboron (17.2 g, 68 mmol), potassium acetate (20 g, 204 mmol), PdCl2(dppf) (5 g, 6.1 mmol) in anhydrous DMSO (200 mL) is stirred at 80° C. for 12 hours. The reaction mixture is cooled to room temperature diluted with ethyl acetate (250 mL) and washed with water (3×100 mL). The organic layer is separated and dried with magnesium sulphate, filtered, and the solvent evaporated. The crude product is purified by column chromatography using a mixture of hexane ethyl acetate (8/1) of eluent solvent to provide the title compound. 1H NMR (CDCl3): 1.37 (s, 12H), 7.32 (m, 2H), 7.76 (d, J=8.3 Hz, 2H). 7.91 (d, J=8.3 Hz, 2H). 13C NMR (CDCl3): 25.2, 84.5, 106.8, 116.1, 126.2, 127.3, 131.0, 134.1, 135.9, 154.0.

reactant | 2-(4-bromophenyl)thiophene-3-carbonitrile | 62 mmol, 16.3 g | BrC1=CC=C(C=C1)C=1SC=CC1C#N | C11H6BrNS
reactant | bis(pinacolato)diboron | 68 mmol, 17.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 204 mmol, 20 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf) | 6.1 mmol, 5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]thiophene-3-carbonitrile | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1SC=CC1C#N)C | C17H18BNO2S
